US09428503B2
Intermediate C7: Diethyl 2-[[(4-bromo-3-fluorophenyl)amino]methylidene]propanedioate
A solution of 4-bromo-3-fluoroaniline (56.6 g, 297.87 mmol) and 1,3-diethyl 2-(ethoxymethylidene)propanedioate (72.45 g, 335.06 mmol) in EtOH (560 mL) was stirred at 80° C. for 4 h. The reaction mixture was allowed to cool, the solids collected by filtration and dried in an oven to afford the desired material (90 g, 84%) as an off-white solid which was used without further purification. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 1.26 (6H, q), 4.14 (2H, q), 4.22 (2H, q), 7.18-7.25 (1H, m), 7.57 (1H, dd), 7.64-7.7 (1H, m), 8.33 (1H, d), 10.62 (1H, d). Mass Spectrum: m/z (ES+)[M+H]+=360.

reactant | 4-bromo-3-fluoroaniline | 297.87 mmol, 56.6 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | 1,3-diethyl 2-(ethoxymethylidene)propanedioate | 335.06 mmol, 72.45 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | EtOH | 560 mL | CCO | C2H6O
product | Diethyl 2-[[(4-bromo-3-fluorophenyl)amino]methylidene]propanedioate | 90 g, 84% | BrC1=C(C=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC)F | C14H15BrFNO4
